Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ YOM with history of atypical chest pain/pressure, presented 
with similar chest pain for 7 hours.  Patient came in today 
because the CP isn't any better.  History of borderline stress 
test excercise/pefusion test in the past ___ years ago).  
Discribes as the same CP he had before in the past. Cardiac 
enzymes - trops were done x2, 2 hours apart (last at 8:30am was 
neg).  EKG had T-Wave flattening in II, III, avF and V5-6.  He 
got ASA and nitro and morphine in the ED with relief of the 
pain.  Admitted for r/o MI to obs but unable to get nuclear 
study over the weekend so admitting to medicine. 
.  
In the ED, initial VS:  Pain ___ T:98 HR:83 BP:133/86 RR:12 
O2Sat:100 
.  
Currently, patient is comfortable without any chest pain. 
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  
 
Past Medical History:
-Anxiety
-headaches
-chronic recurrent scrotal pain s/p urologic workup and no 
etiology 
-Known herniated disc.
-Status post rotator cuff surgery for torn rotator cuff 
bilaterally.
-Left knee arthroscopic surgery for meniscal disease in ___.
-tonsillectomy in ___. 
-heart murmur, unclear etiology (thought to be flow murmur)
-Per cardiology note dated ___: pt w/ atypical chest pain 
without a definitive diagnosis and normal echo/stress MIBI and a 
Holter tracing which are reassuring.
-chronic pelvic pain syndrome  
-migraines  
-sciatica
-s/p MVA ___ 
-?Hypothyroid
 
Social History:
___
Family History:
no known cardiac disease in ___ or siblings
 
Physical Exam:
VS: temp 96.6 HR 66 BP 120/90 RR 16 Sat 99%RA  
GENERAL: NAD, WNWD, ___ male
HEENT: NC/AT, MMM, OP clear, without lesions, PERRLA, EOMI
NECK: no thyromegaly, no LAD, trachea midline
CARDIAC:  nl s1, s2, no m/r/g, RRR
LUNG: CTAB, no w/r/c
ABDOMEN: soft, NTND, + BS
EXT: no C/C/E, no edema, pulses noted throughout
NEURO:  CN II-XII intact without gross abnormality. 
 
Pertinent Results:
___ 06:20AM BLOOD WBC-3.5* RBC-4.34* Hgb-13.4* Hct-40.4 
MCV-93 MCH-30.8 MCHC-33.1 RDW-14.2 Plt ___
___ 06:10AM BLOOD WBC-3.5* RBC-4.49* Hgb-13.7* Hct-42.5 
MCV-95 MCH-30.5 MCHC-32.3 RDW-14.1 Plt ___
___ 06:20AM BLOOD ___ PTT-34.6 ___
___ 06:10AM BLOOD ___ PTT-33.8 ___
___ 06:20AM BLOOD Glucose-107* UreaN-10 Creat-1.1 Na-141 
K-3.8 Cl-103 HCO3-32 AnGap-10
___ 06:10AM BLOOD Glucose-83 UreaN-12 Creat-1.1 Na-140 
K-3.9 Cl-101 HCO3-29 AnGap-14
___ 06:20AM BLOOD ALT-19 AST-23 CK(CPK)-164 AlkPhos-99 
TotBili-0.2
___ 06:20AM BLOOD cTropnT-<0.01
___ 08:30AM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.0 Cholest-177
___ 06:10AM BLOOD Triglyc-101 HDL-48 CHOL/HD-3.7 
LDLcalc-109 LDLmeas-107

CHEST RADIOGRAPHS, PA AND LATERAL VIEWS: ___  
Cardiomediastinal and hilar contours, pleural surfaces, and 
lungs appear normal. Specifically, no pneumonia or CHF seen. 

 
Brief Hospital Course:
___ YOM with history of atypical chest pain/pressure, presented 
with similar chest pain for 7 hours. 
.
# Chest pain: Chest pain is similar to previous admission in 
___.  He was dmitted to rule out MI and stress test.  Cardiac 
enzymes were negative x 2.  EKG changes were noted though 
non-specific.  Atypical chest pain was determined to be GI 
related rather than cardiac.  He was told to stop taking 
Ibuprofen and was started on a PPI. His pain was relieved and 
was pain free at time of discharge. 
.
# Hypothyroidism: noted on recent TFT.  He was start on 
synthroid and was told to follow up with his PCP for dosage 
adjustment. 
.
# Leukopenia with lymphocytosis: unclear etiology, has been his 
baseline for several years. ___ consider outpatient followup 
with Heme/Onc.  Given his history of recent illness (cold) and 
hypothyroidism, may contribute to this chronic leukopenic 
picture.  He was told to follow up with outpatient hematology 
for further workup. 
.  
# CODE: Full code
# CONTACT: ___ (cell) ___

 
Medications on Admission:
IBUPROFEN - 800 mg Tablet Q8H PRN for pain
LORAZEPAM - 0.5 mg Tablet daily PRN
ASPIRIN - 325 mg Tablet E.C. - 1 Tablet(s) daily
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*2*
3. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety.  
6. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
Hypothyroidism
Leukopenia with lymphocytosis

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You came in with chest pain.  We determined that you did not 
have a heart attack.  You were having a episode of 
indigestion/reflux.  We determined that your blood work showed 
decreased white blood cells, this could be due to your 
underlying hypothyroidism - please follow up with hematology 
oncology department for a proper workup.  We also believe that 
your hypothyroid is not under control, which is why we started 
you on synthyroid.  Your chest pain stopped in 24 hours and you 
were discharged in stable condition. 

Please note we made the following changes to your medications:
STOPPED: Ibuprofen 800 mg Tablet 1 Tablet(s) by mouth every 
eight (8) hours as needed for pain 
STARTED:
1. Docusate Sodium  100 mg Capsule  Sig:  One (1) Capsule PO BID 
(2 times a day).
2. Senna  8.6 mg Tablet  Sig:  One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
3. Levothyroxine  50 mcg Tablet  Sig:  One (1) Tablet PO DAILY 
(Daily).
4. Prilosec  20 mg Capsule, Delayed Release(E.C.)  Sig:  One (1) 
Capsule, Delayed Release(E.C.) PO once a day.

Please follow up with the following physicians, see below. 
 
Followup Instructions:
___